US09290468B2
Step 1: N-((2,2-dimethyl-1,3-dioxolan-4-yl)methoxy)-4-fluoro-5-((2-chloro-4-bromophenyl)amino)benzo[d][1,2,3]thiadiazole-6-carboxamide
To a solution of 4-fluoro-5-((4-bromo-2-chlorophenyl)amino)benzo[d][1,2,3]thiadiazole-6-carboxylic acid (200 mg, 0.49 mmol) in CH2Cl2 (10 mL) was added HOBt (100 mg, 0.74 mmol) followed by EDCI (140 mg, 0.74 mmol). The mixture was stirred for 1 h and O-((2,2-dimethyl-1,3-dioxolan-4-yl)methyl)hydroxylamine (108 mg, 0.74 mmol) was added. After stirring for 4 h at ambient temperature, the reaction was treated with saturated NH4Cl (aq.). The resultant mixture was extracted with CH2Cl2 (15 mL×3). The combined organic extracts was washed by water (10 mL) and brine (10 mL) sequentially, dried over Na2SO4, filtered and concentrated in vacuo. The crude product (213 mg) was used directly in the next step without further purification.

reactant | 4-fluoro-5-((4-bromo-2-chlorophenyl)amino)benzo[d][1,2,3]thiadiazole-6-carboxylic acid | 0.49 mmol, 200 mg | FC1=C(C(=CC2=C1N=NS2)C(=O)O)NC2=C(C=C(C=C2)Br)Cl | C13H6BrClFN3O2S
reactant | HOBt | 0.74 mmol, 100 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 0.74 mmol, 140 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | O-((2,2-dimethyl-1,3-dioxolan-4-yl)methyl)hydroxylamine | 0.74 mmol, 108 mg | CC1(OCC(O1)CON)C | C6H13NO3
reactant | NH4Cl | [NH4+].[Cl-]
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | N-((2,2-dimethyl-1,3-dioxolan-4-yl)methoxy)-4-fluoro-5-((2-chloro-4-bromophenyl)amino)benzo[d][1,2,3]thiadiazole-6-carboxamide | CC1(OCC(O1)CONC(=O)C1=CC2=C(N=NS2)C(=C1NC1=C(C=C(C=C1)Br)Cl)F)C | C19H17BrClFN4O4S
